### PR TITLE
[Merged by Bors] - chore: remove unused simp arguments

### PR DESCRIPTION
**Pull request by nomeata**
This removes unused simp arguments flagged by Lean's new `linter.unusedSimpArgs`.

This branch was created on nightly-testing, where we have the linter, and then rebased onto `master`, resolving all merge conflicts to master’s code, so some might be left.

I used a python script to remove the reported simp arguments, and then manually fixed the breakage (mostly changing `← foo` to `- foo` instead of removing it when needed).

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Module.lean [hunk 1]
```diff
@@ -23,8 +23,8 @@ theorem sum_Ico_by_parts (hmn : m < n) :
       f (n - 1) • G n - f m • G m - ∑ i ∈ Ico m (n - 1), (f (i + 1) - f i) • G (i + 1) := by
   have h₁ : (∑ i ∈ Ico (m + 1) n, f i • G i) = ∑ i ∈ Ico m (n - 1), f (i + 1) • G (i + 1) := by
     rw [← Nat.sub_add_cancel (Nat.one_le_of_lt hmn), ← sum_Ico_add']
-    simp only [tsub_le_iff_right, add_le_iff_nonpos_left, nonpos_iff_eq_zero,
-      tsub_eq_zero_iff_le, add_tsub_cancel_right]
+    simp only [
+      add_tsub_cancel_right]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Module.lean]:
```suggestion
    simp only [add_tsub_cancel_right]
```

File: Mathlib/Algebra/Category/Ring/Constructions.lean [hunk 2]
```diff
@@ -230,7 +230,7 @@ def prodFanIsLimit : IsLimit (prodFan A B) where
     ext
     rcases j with ⟨⟨⟩⟩ <;>
     simp only [pair_obj_left, prodFan_pt, BinaryFan.π_app_left, BinaryFan.π_app_right,
-      FunctorToTypes.map_comp_apply, forget_map, coe_of, RingHom.prod_apply] <;>
+      ] <;>
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Category/Ring/Constructions.lean]: Please reformat

File: Mathlib/Algebra/Category/Ring/Under/Limits.lean [hunk 3]
```diff
@@ -68,8 +68,8 @@ def tensorProductFanIso [Fintype ι] [DecidableEq ι] :
     apply CommRingCat.mkUnder_ext
     intro c
     induction c
-    · simp only [AlgHom.toUnder_right, map_zero, Under.comp_right, comp_apply,
-        AlgEquiv.toUnder_hom_right_apply, Pi.evalAlgHom_apply, Pi.zero_apply]
+    · simp only [map_zero, Under.comp_right,
+        ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Category/Ring/Under/Limits.lean]:
```suggestion
    · simp only [map_zero, Under.comp_right]
```

File: Mathlib/Algebra/Homology/AlternatingConst.lean [hunk 4]
```diff
@@ -88,7 +88,7 @@ def AlgebraicTopology.alternatingFaceMapComplexConst :
   NatIso.ofComponents (fun X ↦ HomologicalComplex.Hom.isoOfComponents (fun _ ↦ Iso.refl _) <| by
     rintro _ i rfl
     simp [SimplicialObject.δ, ← Finset.sum_smul, Fin.sum_neg_one_pow, Nat.even_add_one,
-      ← Nat.not_even_iff_odd]) (by intros; ext; simp)
+      - Nat.not_even_iff_odd]) (by intros; ext; simp)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Homology/AlternatingConst.lean]: Is mathlib style `- foo` or `-foo`?

File: Mathlib/Algebra/Homology/Opposite.lean [hunk 5]
```diff
@@ -198,8 +198,8 @@ def unopEquivalence : (HomologicalComplex Vᵒᵖ c)ᵒᵖ ≌ HomologicalComple
   counitIso := unopCounitIso V c
   functor_unitIso_comp X := by
     ext
-    simp only [opUnitIso, opCounitIso, NatIso.ofComponents_hom_app, Iso.op_hom, comp_f,
-      opFunctor_map_f, Quiver.Hom.unop_op, Hom.isoOfComponents_hom_f]
+    simp only [comp_f,
+      ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Homology/Opposite.lean]:
```suggestion
    simp only [comp_f]
```

File: Mathlib/Algebra/Lie/BaseChange.lean [hunk 6]
```diff
@@ -195,13 +195,13 @@ lemma mem_baseChange_iff {m : A ⊗[R] M} :
 @[simp]
 lemma baseChange_bot : (⊥ : LieSubmodule R L M).baseChange A = ⊥ := by
   simp only [baseChange, bot_toSubmodule, Submodule.baseChange_bot,
-    Submodule.bot_toAddSubmonoid]
+    ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/BaseChange.lean]: .

File: Mathlib/Algebra/Lie/BaseChange.lean [hunk 7]
```diff
@@ -195,13 +195,13 @@ lemma mem_baseChange_iff {m : A ⊗[R] M} :
...
   rfl
 
 @[simp]
 lemma baseChange_top : (⊤ : LieSubmodule R L M).baseChange A = ⊤ := by
   simp only [baseChange, top_toSubmodule, Submodule.baseChange_top,
-    Submodule.bot_toAddSubmonoid]
+    ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/BaseChange.lean]: .

File: Mathlib/Algebra/Lie/Engel.lean [hunk 8]
```diff
@@ -252,7 +252,7 @@ theorem LieAlgebra.isEngelian_of_isNoetherian [IsNoetherian R L] : LieAlgebra.Is
     exact nontrivial_max_triv_of_isNilpotent R K (L' ⧸ K.toLieSubmodule)
   haveI _i5 : IsNoetherian R L' := by
     refine isNoetherian_of_surjective L (LieHom.rangeRestrict (toEnd R L M)) ?_
-    simp only [LieHom.range_toSubmodule, LieHom.coe_toLinearMap,
+    simp only [
       LinearMap.range_eq_top]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/Engel.lean]:
```suggestion
    simp only [LinearMap.range_eq_top]
```

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 9]
```diff
@@ -783,7 +783,7 @@ theorem coe_lowerCentralSeries_ideal_quot_eq {I : LieIdeal R L} (k : ℕ) :
   induction k with
   | zero =>
     simp only [LieModule.lowerCentralSeries_zero, LieSubmodule.top_toSubmodule,
-      LieIdeal.top_toLieSubalgebra, LieSubalgebra.top_toSubmodule]
+      ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/Nilpotent.lean]: .

File: Mathlib/Algebra/Lie/SkewAdjoint.lean [hunk 10]
```diff
@@ -63,8 +63,8 @@ def skewAdjointLieSubalgebraEquiv :
     skewAdjointLieSubalgebra (B.compl₁₂ (e : N →ₗ[R] M) e) ≃ₗ⁅R⁆ skewAdjointLieSubalgebra B := by
   apply LieEquiv.ofSubalgebras _ _ e.lieConj
   ext f
-  simp only [LieSubalgebra.mem_coe, Submodule.mem_map_equiv, LieSubalgebra.mem_map_submodule,
-    LinearEquiv.coe_coe]
+  simp only [Submodule.mem_map_equiv, LieSubalgebra.mem_map_submodule,
+    ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/SkewAdjoint.lean]:
```suggestion
  simp only [Submodule.mem_map_equiv, LieSubalgebra.mem_map_submodule]
```

File: Mathlib/Algebra/Lie/SkewAdjoint.lean [hunk 11]
```diff
@@ -119,8 +119,8 @@ def skewAdjointMatricesLieSubalgebraEquiv (P : Matrix n n R) (h : Invertible P)
     ext A
     suffices P.lieConj h A ∈ skewAdjointMatricesSubmodule J ↔
         A ∈ skewAdjointMatricesSubmodule (Pᵀ * J * P) by
-      simp only [LieSubalgebra.mem_coe, Submodule.mem_map_equiv, LieSubalgebra.mem_map_submodule,
-        LinearEquiv.coe_coe]
+      simp only [Submodule.mem_map_equiv, LieSubalgebra.mem_map_submodule,
+        ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/SkewAdjoint.lean]:
```suggestion
      simp only [Submodule.mem_map_equiv, LieSubalgebra.mem_map_submodule]
```

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 12]
```diff
@@ -73,7 +73,7 @@ lemma toEnd_pow_apply_mem {χ₁ χ₂ : H → R} {x : L} {m : M}
   | zero => simpa using hm
   | succ n IH =>
     simp only [pow_succ', Module.End.mul_apply, toEnd_apply_apply,
-      Nat.cast_add, Nat.cast_one, rootSpace]
+      ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean]: .

File: Mathlib/Algebra/Module/FinitePresentation.lean [hunk 13]
```diff
@@ -513,7 +513,7 @@ lemma Module.FinitePresentation.exists_lift_equiv_of_isLocalizedModule
       apply IsLocalizedModule.ext S f (IsLocalizedModule.map_units g)
       apply LinearMap.ext fun x ↦ ?_
       simp only [LinearMap.coe_comp, Function.comp_apply, IsLocalizedModule.map_apply,
-        Basis.coe_repr_symm, LinearMap.coe_restrictScalars]
+        ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/FinitePresentation.lean]: .

**Review by Ruben-VandeVelde — COMMENTED** [review]
First 150 files look good (and I see you noticed some accidental changes and fixed them already)

**Comment by nomeata** [comment]
Hmm, I’m not sure I’d want to manually clean up a 5000 lines diff…

So either someone else does it, or someone creates a script to do it, or we wait for mathlib to eventually start using an autoformatter, or we merge as it and let people fix odd linebreaks whenever they touch a file anyways.

**Comment by nomeata** [comment]
Also github is overwhelmed with showing edit suggestions in the UI. If you do want to make manual changes, maybe do it via a PR into my PR instead, so that I can merge it with one click?

Or simply create a new PR from your fork and take over

**Comment by grunweg** [comment]
How about splitting this PR into e.g. five pieces of 1000 lines each? Those can be reviewed independently. (I could certainly volunteer for one of these, perhaps more - and maintainer merge it.)

**Comment by nomeata** [comment]
Whatever works for you, and feel free to take over :-)

**Comment by nomeata** [comment]
BTW, this is the script that I used to apply the changes from parsing the lake log output. Maybe someone wants to refine and re-run it, instead of manual fixes?

<details>

```
import re
import sys
from collections import defaultdict

def parse_warnings(log_file):
    warnings = []
    with open(log_file, 'r') as f:
        content = f.read()
        # Handle multi-line warnings
        lines = content.split('\n')
        i = 0
        while i < len(lines):
            line = lines[i]
            match = re.match(r'warning: (.+):(\d+):(\d+): This simp argument is unused:', line)
            if match:
                file_path = match.group(1)
                line_num = int(match.group(2))
                col_num = int(match.group(3))
                warnings.append((file_path, line_num, col_num))
            i += 1
    return warnings

def remove_unused_args(log_file):
    warnings = parse_warnings(log_file)

    # Group warnings by file and sort by line/column in reverse order
    file_warnings = defaultdict(list)
    for warning in warnings:
        file_path, line_num, col_num = warning
        file_warnings[file_path].append((line_num, col_num))

    for file_path in file_warnings:
        file_warnings[file_path].sort(key=lambda x: (x[0], x[1]), reverse=True)

    # Process each file
    for file_path, warns in file_warnings.items():
        try:
            with open(file_path, 'r') as f:
                content = f.read()
                lines = content.splitlines(keepends=True)

            for line_num, col_num in warns:
                if line_num <= len(lines):
                    # Get the line and find the position to start removing from
                    line_idx = line_num - 1
                    line = lines[line_idx]

                    # Adjust column number (1-based to 0-based)
                    start_pos = col_num # - 1

                    if start_pos < len(line):
                        # Find the end position - look for next ',' or ']'
                        end_pos = start_pos
                        char_count = 0
                        search_start = start_pos
                        for i in range(search_start, len(line)):
                            if line[i] in ',]':
                                end_pos = i
                                break

                        # Remove the unused argument
                        new_line = line[:start_pos] + line[end_pos:]
                        # If we removed to a comma, also remove the comma if it's now redundant
                        if new_line[start_pos:start_pos+1] == ',' and start_pos > 0:
                            end_pos = start_pos + 1
                            while end_pos < len(new_line) and new_line[end_pos] == ' ':
                               end_pos += 1
                            new_line = new_line[:start_pos] + new_line[end_pos:]
                        # remove preceding comma and space
                        elif new_line[start_pos-2:start_pos] == ', ':
                            new_line = new_line[:start_pos-2] + new_line[start_pos:]
                        # space and newlinw
                        if new_line[start_pos-1:start_pos+1] == ' \n':
                            new_line = new_line[:start_pos-1] + new_line[start_pos:]
                        # remove empty list
                        if new_line[start_pos-2:start_pos+1] == ' []':
                            new_line = new_line[:start_pos-2] + new_line[start_pos+1:]
                        lines[line_idx] = new_line

            # Write the modified file back
            with open(file_path, 'w') as f:
                f.writelines(lines)

        except FileNotFoundError:
            print(f"Warning: File {file_path} not found")
        except Exception as e:
            print(f"Error processing {file_path}: {e}")

if __name__ == "__main__":
    if len(sys.argv) != 2:
        print("Usage: python script.py <log_file>")
        sys.exit(1)

    log_file = sys.argv[1]
    remove_unused_args(log_file)
    print("Processing complete")
```

</details>

**Comment by YaelDillies** [comment]
Any chance you could automatically rewrap the lists of lemmas?

**Comment by nomeata** [comment]
Hmm, not really, that's tricky with commas appearing within simp arguments for example. But if someone is quick with python and maybe a bit of manual clean up it's possible.

**Comment by grunweg** [comment]
For the record: right now, I don't have the capacity to re-split this PR, sorry.

**Comment by YaelDillies** [comment]
I spent several hours fixing formatting by hand. This is a waste of time. Let's merge (once the broken `simp?` have been handled):

maintainer delegate

**Review by TwoFX — COMMENTED** [review]
bors r+
